US05807887
To a solution of 0.22 ml of oxalyl chloride in 10 ml of methylene chloride is added 0.35 ml of dimethyl sulfoxide at -78° C. Then, to the resulting solution is added dropwise a solution of 0.20 g of 5-hydroxymethyl-4,6-difluorobenzo[b]thiophene in 3 ml of methylene chloride. At the same temperature, the resulting mixture is stirred for one hour, and then, 0.70 ml of triethylamine is added thereto. The temperature of the resulting mixture is elevated to room temperature, and thereafter, 10 ml of water and 10 ml of ethyl acetate are added thereto, after which the resulting organic layer is separated, washed successively with water and a saturated saline solution and then dried over anhydrous magnesium sulfate. Then, the solvent is removed from the thus dried layer by distillation under reduced pressure. The residue obtained is purified by a column chromatography [eluent: hexane], to obtain 0.20 g of colorless, solid 4,6-difluorobenzo[b]thiophene-5-carbaldehyde.

reactant | oxalyl chloride | 0.22 ml | C(C(=O)Cl)(=O)Cl | C2Cl2O2
reactant | dimethyl sulfoxide | 0.35 ml | CS(=O)C | C2H6OS
reactant | 5-hydroxymethyl-4,6-difluorobenzo[b]thiophene | 0.20 g | OCC1=C(C2=C(SC=C2)C=C1F)F | C9H6F2OS
reactant | triethylamine | 0.70 ml | C(C)N(CC)CC | C6H15N
solvent | methylene chloride | 10 ml | C(Cl)Cl | CH2Cl2
solvent | methylene chloride | 3 ml | C(Cl)Cl | CH2Cl2
solvent | ethyl acetate | 10 ml | C(C)(=O)OCC | C4H8O2
solvent | water | 10 ml | O | H2O
product | 4,6-difluorobenzo[b]thiophene-5-carbaldehyde | FC1=C(C(=CC=2SC=CC21)F)C=O | C9H4F2OS
